US07868047B2
Experiment 33. 5-[2-(2,4-Difluorophenyl)ethenyl]-2-1-propyl-1,3-benzenediol (41B)
This material was prepared from 1-(2,4-difluorophenyl)-2-(3,5-dimethoxy-4-1-propylphenyl)ethene and pyridine hydrochloride in 44% yield in the same way as described in Example 34. 1HNMR (CDCl3, ppm): δ 1.41 (d, J=7.1 Hz, 6H), 3.49 (qint, J=7.1 Hz, 1H), 4.78 (br, 2H), 6.54 (s, 2H), 6.69-7.02 (m, 3H), 7.13 (d, J=16 Hz, 1H), 7.41-7.75 (m, 1H).

reactant | 1-(2,4-difluorophenyl)-2-(3,5-dimethoxy-4-1-propylphenyl)ethene | FC1=C(C=CC(=C1)F)C=CC1=CC(=C(C(=C1)OC)CCC)OC | C19H20F2O2
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | 5-[2-(2,4-Difluorophenyl)ethenyl]-2-1-propyl-1,3-benzenediol | 44% yield | FC1=C(C=CC(=C1)F)C=CC=1C=C(C(=C(C1)O)CCC)O | C17H16F2O2
